US08748613B2
(R)-Quinuclidin-3-yl 2-(4-methyl-3-oxopiperazin-1-yl)-2-phenylacetate (169 mg, 0.47 mmol) was dissolved in a mixture of ethyl acetate (3 ml) and acetonitrile (1.5 ml). 2-Chloro-1-phenylethanone (80 mg, 0.52 mmol) was added and the reaction was stirred at room temperature for 5 hours. The solvent was evaporated and the residue was triturated with EtOAc (10 ml). The product was purified by flash chromatography (DCM/MeOH=9/1 to 85/15) to obtain (3R)-3-(2-(4-methyl-3-oxopiperazin-1-yl)-2-phenylacetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (99 mg, 0.193 mmol, 40.9% yield) as a pale yellow spongy solid.

reactant | (R)-Quinuclidin-3-yl 2-(4-methyl-3-oxopiperazin-1-yl)-2-phenylacetate | 0.47 mmol, 169 mg | CN1C(CN(CC1)C(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2)=O | C20H27N3O3
reactant | 2-Chloro-1-phenylethanone | 0.52 mmol, 80 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | (3R)-3-(2-(4-methyl-3-oxopiperazin-1-yl)-2-phenylacetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 0.193 mmol, 99 mg, 40.9% yield | [Cl-].CN1C(CN(CC1)C(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)C2=CC=CC=C2)=O | InChI=1S/C28H34N3O4.ClH/c1-29-14-15-30(18-26(29)33)27(23-10-6-3-7-11-23)28(34)35-25-20-31(16-12-22(25)13-17-31)19-24(32)21-8-4-2-5-9-21;/h2-11,22,25,27H,12-20H2,1H3;1H/q+1;/p-1/t22?,25-,27?,31?;/m0./s1
